US06992087B2
Preparation of methyl (3R,4S)-3-({5-[2-chloro-4-(dimethylamino)phenyl]-3,6-diethylpyrazin-2-yl}amino)-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting methyl (3R,4S)-3-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate and N-(4-{4,6-bis[2-chloro-4-(dimethylamino)phenyl]boroxin-2-yl}-3-chlorophenyl)-N,N-dimethylamine, and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, DMSO-d6) δ) 7.30, 7.13, 6.76, 5.85, 4.60-4.54, 4.42, 4.28, 3.72-3.53, 2.94, 2.63, 2.38, 1.19-1.13, 1.06; IR (diffuse reflectance) 2963 (b), 2351 (w), 2338 (w), 2054 (w), 1927 (w), 1921 (w), 1710 (s), 1706 (s), 1608, 1568, 1551, 1486 (s), 1451 (s), 1392 (s), 1353, cm−1; HRMS (FAB) calcd for C24H33ClFN5O3+H 494.2334, found 494.2340.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | methyl (3R,4S)-3-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | BrC=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OC)CC | C16H24BrFN4O3
reactant | N-(4-{4,6-bis[2-chloro-4-(dimethylamino)phenyl]boroxin-2-yl}-3-chlorophenyl)-N,N-dimethylamine | ClC1=C(C=CC(=C1)N(C)C)B1OB(OB(O1)C1=C(C=C(C=C1)N(C)C)Cl)C1=C(C=C(C=C1)N(C)C)Cl | C24H27B3Cl3N3O3
product | methyl (3R,4S)-3-({5-[2-chloro-4-(dimethylamino)phenyl]-3,6-diethylpyrazin-2-yl}amino)-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)N(C)C)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OC)CC | C24H33ClFN5O3
